US07851634B2
c) 7-Bromoimidazo[1,5-a]pyridine
A solution of 10.75 g of N-(4-bromopyridin-2-ylmethyl)formamide in 100 ml of benzene is admixed with 8.43 g of phosphorus oxychloride. The reaction mixture is heated to reflux over 4 hours. The reaction mixture is subsequently cooled to room temperature and concentrated by evaporation, and the residue is admixed with 200 ml of water. The aqueous solution is basified with 1M NaOH and extracted with dichloromethane (3×300 ml). The combined organic phases are washed with 300 ml of water, dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60 F).

reactant | N-(4-bromopyridin-2-ylmethyl)formamide | 10.75 g | BrC1=CC(=NC=C1)CNC=O | C7H7BrN2O
reactant | phosphorus oxychloride | 8.43 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 7-Bromoimidazo[1,5-a]pyridine | BrC1=CC=2N(C=C1)C=NC2 | C7H5BrN2
